US09260441B2
Step B: 2-piperazin-1-ylquinoline hydrochloride
To tert-butyl 4-(3-isoquinolyl)piperazine-1-carboxylate (201 mg, 0.64 mmol) was added a 1:1 mixture of DCM and trifluoroacetic acid, the resulting mixture was stirred at room temperature for one hour. The volatiles were removed under reduced pressure, the residue was dissolved in THF and evaporated again. The residue was dissolved in THF and 4N HCl in 1,4-dioxane was added to precipitate the hydrochloride salt which was collected by filtration and dried under reduced pressure. 123 mg of a solid were obtained (0.49 mmol, 77%). MS (APCI) m/z=214.1 [M+1]+.

reactant | tert-butyl 4-(3-isoquinolyl)piperazine-1-carboxylate | 0.64 mmol, 201 mg | C1=NC(=CC2=CC=CC=C12)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23N3O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | DCM | C(Cl)Cl | CH2Cl2
product | 2-piperazin-1-ylquinoline hydrochloride | 123 mg | Cl.N1(CCNCC1)C1=NC2=CC=CC=C2C=C1 | InChI=1S/C13H15N3.ClH/c1-2-4-12-11(3-1)5-6-13(15-12)16-9-7-14-8-10-16;/h1-6,14H,7-10H2;1H
